.SUBCKT LT1366     3 2 7 4 6
Q3 18 10 14 [4] PL1 1
Q4 19 11 14 [4] PL1 1.006
Q3C 19 10 10 [4] PL1 2
Q4C 18 11 11 [4] PL1 2
Q5 16 15 14 [4] PL1 1
Q2 13 10 17 [4] NL1 1
Q1 12 11 17 [4] NL1 1.006
RINP 10 3 500
RINN 11 2 500
R3 4 18 5K
R1 12 7 5K
RCMP 14 7 12MEG
R4 4 19 5K
RI 21 24 8K
R2 13 7 5K
ROUT1 22 6 31.2
ROUT2 22 0 80K
RCMN 4 17 12MEG
RO1 0 20 25MEG
RPS1 4 20 1600MEG
RPS2 20 7 1600MEG
C1 12 13 8.6PF
C2 18 19 8.6PF
CI 24 6 12PF
CCMP 14 7 1.6PF
CCMN 4 17 1.6PF
CF 20 6 71.5PF
CPS2 20 7 0.1PF
CPS1 4 20 0.1PF
VESAT 26 4 0.814
VCSAT 7 25 0.814
VSENSE 16 4 0 
F1 17 4 VSENSE 1
VLS 7 15 1.4
GN1 7 20 13 12 400U
GP1 20 4 19 18 400U
GOUT 0 22 0 24 21E-3
I1 7 14 5U
IOS 3 2 1NA
IQ 7 4 345U
E1 21 0 20 0 1.31
EOUT 23 0 6 0 1
DI2 11 7 DM1
DI1 10 7 DM1
DC1 20 0 DMX
DO1 6 25 DM1
DO2 26 6 DM1
DL1 23 22 DMX
DL2 22 23 DMX
DC2 0 20 DMX
DSUB 4 7 DM2
.MODEL PL1 LPNP  IS=570E-18 BF=263      BR=0.17  VAF=115 TF=42E-9    TR=7.7E-6 CJE=0.115PF VJE=0.62 MJE=0.44 FC=0.5 CJC=0.948PF VJC=0.62 MJC=0.44 CJS=2.695PF VJS=0.60 MJS=0.36
.MODEL NL1 NPN  IS=1.33E-15 BF=240      BR=0.22  VAF=80 TF=42E-9    TR=7.7E-6 CJE=0.078PF VJE=0.62 MJE=0.44 FC=0.5 CJC=0.749PF VJC=0.62 MJC=0.44 CJS=0.000PF VJS=0.60 MJS=0.36
.MODEL DM1 D IS=8E-16
.MODEL DMX D IS=3.4E-24
.MODEL DM2 D IS=8E-16 BV=39
*
.ENDS LT1366
